US05688817
(d) Allyl 4-(3-tert-butyl-4-isopropyloxybenzoyloxymethyl)benzoate
In a manner similar to Example 1(d), by reaction of 4.1 g (16 mmol) of 3-tert-butyl-4-isopropyloxybenzoyl chloride with 3.1 g (16 mmol) of allyl 4-hydroxymethylbenzoate, 5.1 g (77%) of allyl ester, melting point 63°-4° C., are obtained.

reactant | 3-tert-butyl-4-isopropyloxybenzoyl chloride | 16 mmol, 4.1 g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=CC1OC(C)C | C14H19ClO2
reactant | allyl 4-hydroxymethylbenzoate | 16 mmol, 3.1 g | OCC1=CC=C(C(=O)OCC=C)C=C1 | C11H12O3
product | Allyl 4-(3-tert-butyl-4-isopropyloxybenzoyloxymethyl)benzoate | C(C)(C)(C)C=1C=C(C(=O)OCC2=CC=C(C(=O)OCC=C)C=C2)C=CC1OC(C)C | C25H30O5
